US05925676
To a mixture of (RS)-3-(2-propenyl)-4-methyl-3-cyclopenten-1-ol (190 mg), 2,6-di-tert-butyl-4-methylphenol (5 mg), pyridine (140 mg) and toluene (10 ml), (1R)-trans-2,2-dimethyl-3-(2-methyl-1-propenyl)-cyclopropanecarbonyl chloride was added under ice-cooling. The resulting reaction mixture was further allowed to react for 8 hours at room temperature. Then the reaction mixture was subjected to the same post-treatment as in Example 1 to afford 295 mg of (RS)-3-(2-propenyl)-4-methyl-3-cyclopenten-1-yl (1R)-trans-2,2-dimethyl-3-(2-methyl-1-propenyl)cyclopropanecarboxylate (Compound No. 40). Yield 74% nD25 1.4891

reactant | (RS)-3-(2-propenyl)-4-methyl-3-cyclopenten-1-ol | 190 mg | C(C=C)C=1CC(CC1C)O | C9H14O
reactant | pyridine | 140 mg | N1=CC=CC=C1 | C5H5N
reactant | (1R)-trans-2,2-dimethyl-3-(2-methyl-1-propenyl)-cyclopropanecarbonyl chloride | CC1([C@@H]([C@H]1C=C(C)C)C(=O)Cl)C | C10H15ClO
catalyst | 2,6-di-tert-butyl-4-methylphenol | 5 mg | C(C)(C)(C)C1=C(C(=CC(=C1)C)C(C)(C)C)O | C15H24O
solvent | toluene | 10 ml | C1(=CC=CC=C1)C | C7H8
product | (RS)-3-(2-propenyl)-4-methyl-3-cyclopenten-1-yl (1R)-trans-2,2-dimethyl-3-(2-methyl-1-propenyl)cyclopropanecarboxylate | 295 mg, Yield 74% | CC1([C@@H]([C@H]1C=C(C)C)C(=O)OC1CC(=C(C1)C)CC=C)C | C19H28O2
